US07361671B2
A solution of N-(6-ethyl-3-methyl-pyridin-2-yl)-2,2-dimethyl-propionamide (17.6 g, 0.080 mol) in diethyl ether (400 mL) is cooled to −78° C. and treated with tert-butyllithium (99 mL 1.7 M in pentane). After stirring for 1 h, the solution is warmed to −30° C. for 4 h and treated with N,N-dimethylformamide (19.8 mL, 0.26 mol). After stirring an additional 10 min, the suppension is carefully added to 6 N HCl, pre-cooled to −20° C., at a rate such that the temperature warms to about 0° C. After the addition is complete, the aqueous layer is subsequently washed with ethyl acetate and heated to a gentle reflux for 36 h. The resulting solution is cooled to 0° C. and basified with aq 6 N NaOH to pH 10-12. The solution is then extracted with dichloromethane, dried over MgSO4 and concentrated. The resulting pale orange solid is passed through a plug of silica gel with 30% ethyl acetate in hexanes and recrystaliztion from heptane to give 6-ethyl-1H-pyrrolo[2,3-b]pyridine (6.76 g, 58%) as an off-white solid. mp 117-120° C.; Rf 0.57 (50% ethyl acetate in hexanes); 1H NMR (DMSO-d6, 300 MHz) δ 11.46 (s, 1 H), 7.80 (d, J=8.1 Hz, 1 H), 7.33 (d, J=2.7 Hz, 1 H), 6.90 (d, J=8.1 Hz, 1 H), 6.34 (d, J=3.0 Hz, 1 H), 2.76 (q, J=7.5 Hz, 2 H), 1.23 (t, J=7.5 Hz, 3 H); LRMS calcd for C9H10N: 146.0; found 146.0 (M)+. Anal. Calcd for C9H10N: C, 73.94; H, 6.89; N, 19.16. Found C, 73.93; H, 6.91; N, 19.23.

reactant | N-(6-ethyl-3-methyl-pyridin-2-yl)-2,2-dimethyl-propionamide | 0.080 mol, 17.6 g | C(C)C1=CC=C(C(=N1)NC(C(C)(C)C)=O)C | C13H20N2O
reactant | tert-butyllithium | 1.7 M, 99 mL | C(C)(C)(C)[Li]
reactant | N,N-dimethylformamide | 0.26 mol, 19.8 mL | CN(C=O)C | C3H7NO
reactant | HCl | 6 N | Cl | ClH
solvent | diethyl ether | 400 mL | C(C)OCC | C4H10O
product | 6-ethyl-1H-pyrrolo[2,3-b]pyridine | 6.76 g, 58% | C(C)C1=CC=C2C(=N1)NC=C2 | C9H10N2
